US05767131
1-(3-Aminopropyl)-4,4-dicyclohexylpiperidine
A solution of 3-(4,4-diphenylpiperidin-1-yl)propionitrile (1.01 g, 3.48 mmol, 1.00 equiv) in denatured EtOH (50 mL, 5% isopropanol) was stirred at 120°-130° C. in the presence of 10% Pd on activated carbon (1.00 g, Aldrich) and hydrogen at 440 psi for 15 hours. The catalyst was filtered out by use of Celite and washed with CH2Cl2 (100 mL) and MeOH (150 mL). After removal of the solvents, the residue was dissolved in CH2Cl2 (10 mL) and treated with HCl in ether (1.0M, 8.7 mmol, 2.5 equiv). The solvents were removed again and the residue was recrystallized from hot EtOH-ether (1:2). The white solid obtained from filtration of this mixture was taken up in water (40 mL), which was basified to pH 10 by addition of 1N NaOH and extracted with CH2Cl2 (3×75 mL). The combined organic solutions were dried over MgSO4 and concentrated to afford 650 mg of colorless oil (61%), which was characterized spectroscopically.

reactant | 3-(4,4-diphenylpiperidin-1-yl)propionitrile | 3.48 mmol, 1.01 g, 1.00 equiv | C1(=CC=CC=C1)C1(CCN(CC1)CCC#N)C1=CC=CC=C1 | C20H22N2
reactant | hydrogen | [H][H] | H2
reactant | HCl | Cl | ClH
reactant | ether | 8.7 mmol, 1.0M, 2.5 equiv | CCOCC | C4H10O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | water | 40 mL | O | H2O
catalyst | Pd on activated carbon | 1.00 g | [Pd] | Pd
product | 1-(3-Aminopropyl)-4,4-dicyclohexylpiperidine | 650 mg, 61% | NCCCN1CCC(CC1)(C1CCCCC1)C1CCCCC1 | C20H38N2
